US04775674
A solution of 5-[[5-[3-(2-methyl-1,3-dioxolan-2-yl)propoxy]-2-nitrophenyl]methylene]-2,4-imidazolidinedione (34.7 g, 92 mmol) in dimethylformamide (500 mL) was hydrogenated over 10% palladium on charcoal (3.5 g) at 200 p.s.i. in a low pressure hydrogenator. After 18 hours, the mixture was filtered through kieselguhr and concentrated in vacuo to afford a beige solid which was suspended in refluxing methanol (500 mL). Iodine (23.3 g, 92 mmol) was added portionwise and the mixture heated at reflux for a further 30 minutes before being cooled and diluted with 10% sodium thiosulfate solution (230 mL) and 10% sodium carbonate solution (75 mL). The mixture was concentrated to a volume of approximately 400 mL, the precipitate filtered off, washed with water and dried in vacuo of 70° C. to afford 1,3-dihydro-7-(4-oxopentoxy)-2H-imidazo[4,5-b]quinolin-2-one (22.1 g, 84%). An analytical sample was prepared by crystallizing a 10 g portion from aqueous dimethylformamide to give 7.8 g of pure material which had m.p. 294°-296° C. (dec.).

reactant | 5-[[5-[3-(2-methyl-1,3-dioxolan-2-yl)propoxy]-2-nitrophenyl]methylene]-2,4-imidazolidinedione | 92 mmol, 34.7 g | CC1(OCCO1)CCCOC=1C=CC(=C(C1)C=C1C(NC(N1)=O)=O)[N+](=O)[O-] | C17H19N3O7
reactant | methanol | 500 mL | CO | CH4O
reactant | Iodine | 92 mmol, 23.3 g | II | I2
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 3.5 g | [Pd] | Pd
solvent | sodium thiosulfate | 230 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | sodium carbonate | 75 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 1,3-dihydro-7-(4-oxopentoxy)-2H-imidazo[4,5-b]quinolin-2-one | 22.1 g, 84% | O=C(CCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O)C | C15H15N3O3
